US06733742B1
N-cyclodecyl-N-methyl-pyrrolidinium iodide (45 gm; 0.128 mol) was dissolved in 150 ml water in a 500 ml plastic bottle. To the solution, 160 gm of Ion-Exchange Resin-OH (BIO RAD® AH1-X8) was added and the mixture was stirred at room temperature overnight. The mixture Was filtered and the solids were rinsed with an additional 85 ml of water. The reaction afforded 0.12 mole of the SDA (N-cyclodecyl-N-methyl-pyrrolidinium hydroxide) as indicated by titration analysis with 0.1N HCl.

reactant | N-cyclodecyl-N-methyl-pyrrolidinium iodide | 0.128 mol, 45 gm | [I-].C1(CCCCCCCCC1)[N+]1(CCCC1)C
reactant | water | 150 ml | O | H2O
product | N-cyclodecyl-N-methyl-pyrrolidinium hydroxide | [OH-].C1(CCCCCCCCC1)[N+]1(CCCC1)C | InChI=1S/C15H30N.H2O/c1-16(13-9-10-14-16)15-11-7-5-3-2-4-6-8-12-15;/h15H,2-14H2,1H3;1H2/q+1;/p-1
